US07126003B2
N-[(E)-(3-fluoro-2-pyridyl)methylidene]-4-methoxyaniline
3-Fluoro-2-formylpyridine (229 g) and paraanisidine (225 g) were dissolved in toluene (2.29 l). After adding anhydrous sodium sulfate (334 g), the mixture was stirred at room temperature for 1 hour. After filtering off the insoluble matters, the liquid reaction mixture was concentrated under reduced pressure to thereby give the title compound (449 g).

reactant | 3-Fluoro-2-formylpyridine | 229 g | FC=1C(=NC=CC1)C=O | C6H4FNO
reactant | paraanisidine | 225 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium sulfate | 334 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 2.29 l | C1(=CC=CC=C1)C | C7H8
product | N-[(E)-(3-fluoro-2-pyridyl)methylidene]-4-methoxyaniline | 449 g | FC=1C(=NC=CC1)\C=N\C1=CC=C(C=C1)OC | C13H11FN2O
